* jjt 31/10/2000: removed IKF=0 from the model.
*                 removed ISR=100E-12 from the model.
*                 removed NR=2 from the model.
*****************************************************************
.SUBCKT BB914 1 2 3
D1 1 3 DBB914
D2 2 3 DBB914
.MODEL DBB914 D(IS=10.00E-15 N=1.020 RS=.28 XTI=3 EG=1.11
+ CJO=75.54E-12 M=1.161 VJ=3.445 FC=.5 BV=20 IBV=100E-9
+ TT=137.0E-9)
.ENDS

* created using Parts release 6.1 on 06/20/95 at 17:40
* Parts is a MicroSim product.
* BB914 - typical , SIEMENS HL EH PD 1 MOSCHOVIS